* source LM393LV
.EXTERNAL INPUT OUT
.EXTERNAL INPUT IN+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT GND
.EXTERNAL INPUT V+
R_R3         V+ OUT  10k TC=0,0 
V_VINN2         V+ 0 2
R_R2         0 GND  1m TC=0,0 
V_VINN         IN- 0 2.5
V_V1         IN+ 0  
+SIN 2.5 200m 100k 0 0 0
X_U1         IN+ IN- V+ GND OUT LM393LV
